US05034403
A mixture of 4-nitro-3-fluoropyridine N-oxide (4.2 g) and 5-amino-2,3-dimethylindole (4.2 g) in 100 mL of thoroughly degassed absolute ethanol was stirred at 50° C. for 30 minutes and then cooled slowly to 0° C. The precipitate was collected and air dried to give 7.3 g of N-(4-nitro-3-pyridinyl)-2,3-dimethyl-1H-indol-5-amine N5 -oxide as a powder. This powwder was taken up in 225 mL of isopropanol and hydrogenated at 50° C. over 3% platinum on carbon at 50 psi in the presence of lithium hydroxide (0.21 g). Filtration and concentration left 4.7 g of a solid which was recrystallized twice from methanol giving 2.4 g of crystals. This material was then azeotroped repeatedly with absolute ethanol and dried at 85° to give 1.4 g of crystals, mp=112°-115° C.

reactant | 4-nitro-3-fluoropyridine N-oxide | 4.2 g | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])F | C5H3FN2O3
reactant | 5-amino-2,3-dimethylindole | 4.2 g | NC=1C=C2C(=C(NC2=CC1)C)C | C10H12N2
reactant | ethanol | C(C)O | C2H6O
product | N-(4-nitro-3-pyridinyl)-2,3-dimethyl-1H-indol-5-amine N5 -oxide | 7.3 g | [N+](=O)([O-])C1=C(C=NC=C1)[NH+](C=1C=C2C(=C(NC2=CC1)C)C)[O-] | C15H14N4O3
